US06576596B1
(1H-NMR (CDCl3, δ in ppm): 1.13 (6H); 2.32 (2H); 2.52 (1H); 2.66 (2H); 4.81 (2H); 7.12 (1H); 7.43 (1H); 8.31 (1H); 16.48 (1H).) 2-(2-Chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoyl)-5,5-dimethyl-1,3-cyclohexanedione (compound 2.07)
1.26 g (0.009 mol) of dimedone and 1.90 g (0.009 mol) of dicyclohexylcarbodiimide were added to a solution of 2.95 g (0.009 mol) of 2-chloro-3-ethoxyiminomethyl-4-methylsulfonyl-benzoic acid in 130 ml of anhydrous acetonitrile. After stirring for 12 hours at room temperature, 0.42 g (0.005 mol) of acetone cyanohydrin and 3.27 g (0.032 mol) of triethylamine in 10 ml of absolute acetonitrile were added dropwise. The reaction mixture was then stirred for a further 2 hours at room temperature. With stirring, the reaction mixture was poured into 200 ml of water, the precipitate was filtered off with suction and the filtrate was added to 100 ml of 5% strength potassium carbonate solution. The aqueous phase was washed with ethyl acetate, the pH was adjusted to 2 using 10% strength hydrochloric acid and the mixture was extracted with ethyl acetate. The combined organic phases were washed with water until neutral, dried and concentrated under reduced pressure. This gave 2.52 g of crude product which was recrystallized from toluene. (mp.: 156-157° C.)

reactant | dimedone | 0.009 mol, 1.26 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | dicyclohexylcarbodiimide | 0.009 mol, 1.90 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-chloro-3-ethoxyiminomethyl-4-methylsulfonyl-benzoic acid | 0.009 mol, 2.95 g | ClC1=C(C(=O)O)C=CC(=C1C=NOCC)S(=O)(=O)C | C11H12ClNO5S
reactant | acetone cyanohydrin | 0.005 mol, 0.42 g | CC(C#N)(O)C | C4H7NO
reactant | triethylamine | 0.032 mol, 3.27 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
product | 2-(2-Chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoyl)-5,5-dimethyl-1,3-cyclohexanedione | ClC1=C(C(=O)C2C(CC(CC2=O)(C)C)=O)C=CC(=C1C=NOCC)S(=O)(=O)C | C19H22ClNO6S
